US07585868B2
Synthesis of 3-p-tolyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine (ZK141).
1-tert-butyl-3-p-tolyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine was dissolved in a solution of formic acid (1 mL) and conc. HCl (0.1 mL) and heated to reflux. The reaction was allowed to proceed 30 min., then concentrated in vacuo and the products purified by RP-HPLC (MeCN:H2O:0.1% TFA). ESI-MS (M+H)+ m/z calcd 226.1, found 226.3.

reactant | 1-tert-butyl-3-p-tolyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine | C(C)(C)(C)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)C | C16H19N5
solvent | formic acid | 1 mL | C(=O)O | CH2O2
solvent | HCl | 0.1 mL | Cl | ClH
product | 3-p-tolyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine | C1(=CC=C(C=C1)C1=NNC2=NC=NC(=C21)N)C | C12H11N5
